US04013647
In a manner similar to Example I, 1-benzyl-1H-tetrazole-5-carbonyl chloride is condensed with 2-amino-6-(1-piperidinyl)benzonitrile to give 1-benzyl-N-[2-cyano-3-(1-piperidinyl)phenyl]-1H-tetrazole-5-carboxamide.

reactant | 1-benzyl-1H-tetrazole-5-carbonyl chloride | C(C1=CC=CC=C1)N1N=NN=C1C(=O)Cl | C9H7ClN4O
reactant | 2-amino-6-(1-piperidinyl)benzonitrile | NC1=C(C#N)C(=CC=C1)N1CCCCC1 | C12H15N3
product | 1-benzyl-N-[2-cyano-3-(1-piperidinyl)phenyl]-1H-tetrazole-5-carboxamide | C(C1=CC=CC=C1)N1N=NN=C1C(=O)NC1=C(C(=CC=C1)N1CCCCC1)C#N | C21H21N7O
